Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypercarbic respiratory failure
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
Ms. ___ is a ___ woman with a history of severe 
COPD (FEV1/FVC 40% ___ CHFpEF ___ LVEF 55-60%), with 
a recent admission ___ for mixed hypercarbic/hypercapnic 
respiratory failure due to volume overload treated with IV 
diuresis, who presents with dyspnea, cough, and fatigue. 

History obtained from daughter at bedside, Ms. ___ as above, 
and chart review. Ms. ___ has experienced progressive severe 
dyspnea, fatigue, weakness, and non-productive cough since 
___, accompanied by subjective fevers and anorexia. No 
new headache, congestion, chest pain, abdominal pain, or 
nausea/vomiting/diarrhea. Has been sitting sleeping upright with 
frequent nighttime awakenings (with cough) x5 days, with some 
mild bilateral ankle edema. Her daughter also expressed concerns 
about delirium in setting of subjective fevers ___ ___. 

Ms ___ continues to take her inhalers and Lasix as prescribed 
(daughter and other family provide ___ care and supervise med 
administration), but inhalers/nebulizer has not provided 
sufficient relief. She takes Advair 230, 2 puffs twice daily, 
Spiriva 2.5 Respimat, 2 inhalations daily, albuterol 2 puffs ___ 
times daily, and prednisone 20 mg daily.  

Family confirmed no prior intubations for COPD, though endorses  
>2 COPD exacerbations in past year. Is up-to-date on 
vaccinations. No close sick contacts or recent travel. Prior 
smoker (in her ___ but no current smoking. On home O2 5L ___ 
this past week, but at baseline usually uses NC O2 during 
exertion. Family called EMS due to severely worsening cough and 
severe fatigue.

EMS was called to home, 89% on RA, improved to ___ with 2L NC. 

In the ED,  HR 120s-140s and desat to ___ on RA with increased 
work of breathing RR 30. 
- Initial Vitals:  Temp 97.8F, HR 108, RR 20, BP 90/71, SpO2 
100% on RA
- Exam:  Sitting upright, speaking in ___ word sentences, 
expiratory wheezing, rhonchorous cough, no crackles.
- Labs:  
VBG pH 7.29, pCO2 84, pO2 28, HCO3 42
WBC 8.9, Hgb 12.2, plt 214
Trop-T < 0.01 
Lactate 1.4
LFTs normal, lipase 25 
Glucose 175, HCO3 35, Extended electrolytes normal 
INR 1.0 
FluA PCR - positive 
FluB PCR - negative 
Blood cultures x2 pending
BNP pending

- Imaging:  
___ EKG - Sinus tachycardia, enlarged P waves likely consistent 
with her history of COPD, no significant ST changes

___ CXR: no evidence of effusion or acute fluid overload, no 
focal consolidation, hyperinflated lungs likely consistent with 
COPD 

- Consults:  None 
- Interventions: Transitioned to NC -> BiPap -> Non-rebreather. 
Duo-nebs x1, IV methylpred 80 mgx1.

In ICU, on Bi-bap, resumed duo-nebs, had 1 episode coughing with 
tachycardia to 140s without hypoxia, resolved w/ duo-nebs and 
Bi-Pap repositioning.

ROS: Positives as per HPI; otherwise negative.  
 
Past Medical History:
- HFpEF - last seen ___ ___ clinic. Admitted ___, 40 
lbs above dry wt, BNP > 4000, was ruled out for PE and MI, tx 
with IV lasix to discharge weight of 135 lb, attributed to 
dietary and med noncompliace. 
Type of HF: HF with recovered LVEF (takotsubo CMP)
Devices: none
___ Class: II
ACC/AHA Stage: C
Dry weight: 130 lb
- Severe COPD - CT ___ moderate centrilobular emphysema. Per  
___ COPD f/u Dr. ___: FEV1 and vital capacity 0.3 
and 0.75 (15 and 30% predicted respectively).  FEV1 to vital 
capacity ratio is 40% (53% predicted), consistent with prior.
- Hyperlipidemia
- GERD
- Osteoarthritis of shoulder, neck, back, knees
- Stage IIIA Colon Cancer s/p resection
- Anxiety, depression
- Hypertension
- Coronary artery disease: Has moderate OM and PDA disease
- Venous statsis 
 
Social History:
___
Family History:
Per OMR, no family history of early MI,, arrhthymia, 
cardiomyopathies, or sudden cardiac death. 
Daughter with HTN. 
 
Physical Exam:
ADMISSION PHYSICAL: 
==================
VS: Reviewed in Metavision 
GEN: thin, tearful, coughing  
EYES: anicteric  
HENNT: moist mucus membranes  
CV: tachycardic, distant s1 and s2, soft systolic murmur, no JVD 

RESP: coarse breath sounds b/l, no wheezing or stridor but
decreased air movement and prolonged expiratory phase  
GI: +BS, soft, non-tender, non-distended  
MSK: warm extremities, no peripheral edema of UE, trace pedal
edema  
SKIN: chronic venous stasis changes BLE  
NEURO: A&O to name, place, reason for admission, moves all limbs
equally and spontaneously  
PSYCH: appears anxious   

DISCHARGE PHYSICAL:
==================
24 HR Data (last updated ___ @ 1345)
    Temp: 97.8 (Tm 98.0), BP: 111/61 (111-159/61-77), HR: 112
(107-125), RR: 22 (___), O2 sat: 94% (93-100), O2 delivery: 2L 


GEN: sitting up in bed, labored breaths, speaks in full 
sentences
CV: tachycardic, irregular rhythm, normal s1 and s2
RESP: mild expiratory wheezes bilaterally
GI: Soft, nontender, nondistended
EXTREMITIES: No ___ edema, warm
SKIN: Chronic venous stasis changes BLE
NEURO: A&Ox3, moves all extremities, normal speech
 
Pertinent Results:
ADMISSION LABS:
==============
___ 09:14AM BLOOD WBC-8.9 RBC-4.52 Hgb-12.2 Hct-43.6 MCV-97 
MCH-27.0 MCHC-28.0* RDW-15.6* RDWSD-55.3* Plt ___
___ 09:14AM BLOOD Neuts-75.6* Lymphs-15.5* Monos-8.3 
Eos-0.0* Baso-0.2 NRBC-0.2* Im ___ AbsNeut-6.73* 
AbsLymp-1.38 AbsMono-0.74 AbsEos-0.00* AbsBaso-0.02
___ 09:14AM BLOOD ___ PTT-25.2 ___
___ 09:14AM BLOOD Glucose-175* UreaN-15 Creat-0.9 Na-140 
K-4.0 Cl-93* HCO3-35* AnGap-12
___ 09:14AM BLOOD ALT-12 AST-19 AlkPhos-68 TotBili-0.5
___ 09:14AM BLOOD Lipase-25
___ 09:14AM BLOOD proBNP-723*
___ 09:14AM BLOOD cTropnT-<0.01
___ 09:14AM BLOOD Albumin-3.9 Calcium-9.1 Phos-3.2 Mg-2.0
___ 09:27AM BLOOD ___ pO2-28* pCO2-84* pH-7.29* 
calTCO2-42* Base XS-9
___ 09:27AM BLOOD Lactate-1.4

INTERIM LABS:
==============
___ 03:45AM BLOOD WBC-8.6 RBC-4.45 Hgb-11.9 Hct-42.2 MCV-95 
MCH-26.7 MCHC-28.2* RDW-15.6* RDWSD-53.8* Plt ___
___ 03:57AM BLOOD WBC-9.3 RBC-4.17 Hgb-11.3 Hct-39.7 MCV-95 
MCH-27.1 MCHC-28.5* RDW-15.5 RDWSD-53.2* Plt ___
___ 03:57AM BLOOD ___ PTT-22.5* ___
___ 03:45AM BLOOD ___ PTT-27.3 ___
___ 03:57AM BLOOD Glucose-99 UreaN-14 Creat-0.7 Na-141 
K-4.3 Cl-99 HCO3-34* AnGap-8*
___ 03:45AM BLOOD Glucose-109* UreaN-14 Creat-0.7 Na-140 
K-4.3 Cl-97 HCO3-32 AnGap-11
___ 03:57AM BLOOD Calcium-8.6 Phos-3.2 Mg-2.0
___ 03:45AM BLOOD Calcium-8.8 Phos-2.4* Mg-2.1
___ 04:01AM BLOOD ___ pO2-43* pCO2-69* pH-7.34* 
calTCO2-39* Base XS-7
___ 03:59PM BLOOD ___ pO2-31* pCO2-57* pH-7.42 
calTCO2-38* Base XS-9
___ 08:09PM BLOOD ___ pO2-31* pCO2-63* pH-7.38 
calTCO2-39* Base XS-8
___ 11:42PM BLOOD ___ pO2-37* pCO2-65* pH-7.36 
calTCO2-38* Base XS-7
___ 03:51AM BLOOD ___ pO2-35* pCO2-72* pH-7.35 
calTCO2-41* Base XS-10
___ 05:58AM BLOOD ___ FiO2- pO2-23* pCO2-70* pH-7.38 
calTCO2-43* Base XS-11
___ 10:41AM BLOOD ___ pO2-36* pCO2-67* pH-7.39 
calTCO2-42* Base XS-11

PERTINENT STUDIES
___ CHEST XRAY
FINDINGS: 
 
Lungs are well expanded.  Cardiomediastinal silhouette and hilar 
contours are
unchanged.  There has been interval development of new opacities 
in the
bibasilar lobes.  The right-sided PICC terminates at the 
cavoatrial junction.
 
IMPRESSION: 
 
Numerous new opacities within the bibasilar lobes concerning for 
multifocal
pneumonia.

___ CTA CHEST
FINDINGS: 
 
CT ANGIOGRAM: The pulmonary embolism study is of good diagnostic 
quality. 
There are no filling defects in the pulmonary artery and 
segmental
subsegmental branches to suggest pulmonary embolism.  The aorta 
is
unremarkable.  There is evidence of atherosclerotic 
calcification involving
the wall of aorta.  Moderate coronary artery calcification.
 
THORACIC INLET: Thyroid is unremarkable.  There are no enlarged
supraclavicular lymph nodes
 
BREAST AND AXILLA  : There are no enlarged axillary lymph nodes.
 
MEDIASTINUM: There are no enlarged mediastinal hilar lymph 
nodes.  Heart size
is normal.  There is no pericardial effusion.  The aorta and 
pulmonary
arteries are normal in caliber.
 
 
PLEURA: There is no pleural effusion.  Previously visualized 
bilateral
effusions have resolved
 
LUNG: There is severe diffuse centrilobular emphysema.  The 9 mm 
right lower
lobe pulmonary nodule (301, 128) may have been obscured by 
previously
visualized effusions.  The lingular nodule has resolved there is
bronchiectasis with peribronchial thickening and bronchus 
centric opacities in
both lower lobes which could be related to aspiration.  The 
lingular nodule
measures 9.8 mm it previously measured 6 mm (2, 84) no new 
pulmonary nodules
 
BONES AND CHEST WALL : Review of bones shows degenerative 
changes involving
the thoracic spine
 
UPPER ABDOMEN: Limited sections through the upper abdomen are 
unremarkable
 
IMPRESSION: 
 
No evidence of pulmonary embolism.
 
Severe diffuse centrilobular emphysema.
 
The right lower lobe is a spiculated nodule is concerning for 
primary lung
cancer.  This nodule measured 4 mm in ___ and was 
obscured on the
prior study by the effusion and atelectasis.
 
The lingular nodule is also increased in size and now measures 
9.8 mm it
previously measured 6 mm.

DISCHARGE LABS: 
==============

___ 04:48AM BLOOD WBC-8.1 RBC-3.98 Hgb-10.7* Hct-37.9 
MCV-95 MCH-26.9 MCHC-28.2* RDW-15.4 RDWSD-53.3* Plt ___
___ 04:48AM BLOOD Glucose-159* UreaN-23* Creat-0.7 Na-140 
K-4.9 Cl-94* HCO3-37* AnGap-9*
___ 04:48AM BLOOD Calcium-9.1 Phos-3.1 Mg-2.3
___ 04:48AM BLOOD LD(LDH)-202
 
Brief Hospital Course:
SUMMARY STATEMENT:
====================
Ms. ___ is a ___ woman with a history of severe COPD 
(FEV1/FVC 40% ___ CHFpEF ___ LVEF 55-60%), with a 
recent admission ___ for mixed hypercarbic/hypercapnic 
respiratory failure due to volume overload treated with IV 
diuresis, who presented with dyspnea, cough, and fatigue, and 
who was admitted to MICU on ___ for COPD exacerbation and 
Influenza A requiring Bipap for less than 24 hours in the ICU. 
She also received IV steroids and a 5 day course of azithromycin 
as well as scheduled nebulizers for COPD exacerbation. Given her 
severe COPD and baseline dyspnea, she was initiated on morphine 
for symptom control. She was transferred to the medicine floor 
after transitioning to nasal cannula. A CXR showed concern for 
multifocal pneumonia so empiric treatment with vancomycin and 
ceftazidime was initiated; patient did not have significant 
symptoms of pneumonia nor leukocytosis, however in the setting 
of her poor pulmonary reserve she completed a 7d course of 
ceftazidime (vanc discontinued after negative MRSA swab). She 
was evaluated by rehabilitative services and recommended 
discharge home with appropriate services.

ACTIVE ISSUES:
==============
#COPD exacerbation secondary to influenza
Known history of severe COPD (FEV1/FVC 40% ___, followed 
closely by Dr. ___ at ___ picture of 1 week of 
progressive cough, dyspnea, and increased O2 requirements was 
found to be consistent with COPD exacerbation. Accompanying 
cough, fatigue/weakness, and subjective fever with positive Flu 
A PCR supported influenza as exacerbation trigger. CXR on 
admission without focal consolidation, excluding PNA. Absence of 
volume overload on exam, CXR without pulmonary edema, and mildly 
elevated BNP (723) on admission excluded HFpEF as cause of 
exacerbation.

Trop-T <0.01 on admission and EKG without acute changes excluded 
ACS. Blood cultures x2 from the ED ___ showed no growth.

Her COPD exacerbation was treated with intermittent Bi-Pap, 80mg 
IV methylprednisolone daily ___ with plan for 5-day 
course), Azithromycin 500 mg IV ___ with plan for 5-day 
course), standing duo-nebs and albuterol PRN. She was treated 
with oseltamivir 75 mg PO/NG BID (5-day course, ___. 
Palliative care was consulted for assistance with morphine 
titration for air hunger, with ___ PO Morphine elixir q4PRN 
started ___ with good effect.

She was discharged on a prednisone taper (see transitional 
issues)

#Primary lung malignancy
On ___ CTA of the chest was performed to rule out pulmonary 
embolism is contributing to patient's symptoms. This showed a 
progression of 2 lung nodules, one in the right lower lobe now 
measuring 9 mm and one in the lingula measuring 10 mm since last 
chest CT in ___. Patient was initially concerned about these 
findings but was reassured upon being informed that this was not 
likely to affect her quality of life or affect her given her 
severe underlying pulmonary disease. Will be followed by Dr. 
___ recommended ___ CT in 4 months if patient 
desires to follow these lung nodules.

#Goals of care
Given patient's severe underlying COPD and significant dyspnea 
even at rest palliative care was consulted for symptom 
management and goals of care discussion. Patient valued being at 
home and spending time at home and also decided to change code 
status to DNR/DNI. Initiated morphine as noted above which 
patient tolerated well; she had mild metabolic alkalosis which 
was initially concerning for respiratory acidosis but pH was 
normal.

#Hospital-acquired pneumonia
Chest x-ray on ___ was concerning for possible multifocal 
pneumonia. Though the patient did not have symptoms consistent 
with pneumonia and did not express a leukocytosis, given her 
poor pulmonary reserve she was initiated on empiric course of 
antibiotics for hospital-acquired pneumonia with vancomycin and 
ceftazidime. Vancomycin was discontinued after MRSA swab 
resulted negative and ceftazidime was completed for 7-day 
course.

#HFpEF
HF with recovered LVEF (takotsubo CMP), stable over past month 
on Lasix 20mg PO. NYHA Class: II. ACC/AHA Stage: C. No evidence 
of volume overload on exam, CXR without pulmonary edema, and BNP 
723 (mildly elevated). Do not suspect HF contributory to current 
presentation. She was continued on IV equivalent of her home 
Lasix and transitioned to her home dose of Lasix 20mg PO on 
___. Creatinine and electrolytes were trended daily and 
remained normal.
Admission weight: 120 lbs
Discharge weight: 115.7 lbs
Dry weight: 130 lb per outpatient records 

CHRONIC ISSUES 
=============== 
#HTN
Initially held home antihypertensives in the setting of possible 
infection/pneumonia, restarted amlodipine prior to discharge and 
lisinopril restarted on discharge.

#HLD
Continue home atorvastatin.

#CAD
Continued home aspirin 81 

#DEPRESSION, ANXIETY
Continued home buspirone 7.5 mg PO BID 
Continued home mirtazapine 15 mg PO/NG QHS

#GERD
Continued home omeprazole 40 mg PO DAILY

TRANSITIONAL ISSUES:
====================
[ ] Per Dr. ___ repeat CT scan in 4 months 
(___) to follow lung nodules

[ ] Plan for prednisone taper: 4 days (___) at 60 mg daily, 
4d (___) at 40 mg daily, 4d (___) at 30 mg daily, 
ongoing therapy at 20 mg daily thereafter/defer to Dr. 
___

[ ] Patient has care connection with palliative care pending for 
ongoing symptom management and goals of care.

[ ] Code status changed this admission to DNR/DNI with MOLST in 
chart 

CONTACT:
Name of health care proxy: ___ 
Phone number: ___ 
CODE STATUS: DNR/DNI
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever 
2. amLODIPine 5 mg PO DAILY 
3. Artificial Tears ___ DROP BOTH EYES PRN dry eye 
4. Aspirin 81 mg PO DAILY 
5. Atorvastatin 40 mg PO QPM 
6. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Q8H 
7. BusPIRone 7.5 mg PO BID 
8. Ferrous Sulfate 325 mg PO BID 
9. Lisinopril 10 mg PO DAILY 
10. Mirtazapine 15 mg PO QHS 
11. PredniSONE 20 mg PO DAILY 
12. Advair HFA (fluticasone-salmeterol) 230-21 mcg/actuation 
inhalation BID 
13. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN dyspnea, wheeze 
14. Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea, wheeze 
15. Calcium Citrate + D (calcium citrate-vitamin D3) 315-200 
mg-unit oral DAILY 
16. Furosemide 20 mg PO DAILY 
17. mometasone 0.1 % topical BID 
18. Omeprazole 40 mg PO DAILY 
19. Spiriva Respimat (tiotropium bromide) 2.5 mcg/actuation 
inhalation DAILY 

 
Discharge Medications:
1.  Morphine Sulfate (Oral Solution) 2 mg/mL ___ mg PO Q6H:PRN 
air hunger 
RX *morphine 10 mg/5 mL ___ ml by mouth every eight (8) hours 
Disp ___ Milliliter Milliliter Refills:*0 
2.  PredniSONE 60 mg PO DAILY Duration: 3 Doses 
___ 
This is dose # 1 of 3 tapered doses
Tapered dose - DOWN 
RX *prednisone 10 mg ___ tablet(s) by mouth once a day Disp #*56 
Tablet Refills:*0 
3.  PredniSONE 40 mg PO DAILY Duration: 4 Doses 
___ 
This is dose # 2 of 3 tapered doses 
4.  PredniSONE 30 mg PO DAILY Duration: 4 Doses 
___ 
This is dose # 3 of 3 tapered doses 
5.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever  
6.  Advair HFA (fluticasone-salmeterol) 230-21 mcg/actuation 
inhalation BID  
7.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN dyspnea, wheeze  
8.  Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea, wheeze  
9.  amLODIPine 5 mg PO DAILY  
10.  Artificial Tears ___ DROP BOTH EYES PRN dry eye  
11.  Aspirin 81 mg PO DAILY  
12.  Atorvastatin 40 mg PO QPM  
13.  Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Q8H  
14.  BusPIRone 7.5 mg PO BID  
15.  Calcium Citrate + D (calcium citrate-vitamin D3) 315-200 
mg-unit oral DAILY  
16.  Ferrous Sulfate 325 mg PO BID  
17.  Furosemide 20 mg PO DAILY  
18.  Lisinopril 10 mg PO DAILY  
19.  Mirtazapine 15 mg PO QHS  
20.  mometasone 0.1 % topical BID  
21.  Omeprazole 40 mg PO DAILY  
22.  Spiriva Respimat (tiotropium bromide) 2.5 mcg/actuation 
inhalation DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Acute hypoxemic hypercapnic respiratory failure
___ acquired pneumonia
Severe chronic obstructive pulmonary disease
Concern for primary malignancy of lung

SECONDARY DIAGNOSES:
Chronic heart failure with preserved ejection fraction
Hypertension
Coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for respiratory failure.

What was done for me while I was in the hospital?  
- In the hospital, you were diagnosed with a flare of your COPD 
in the setting of a flu infection.

- You were treated for the flu and you were given extra oxygen 
with BiPAP and supplemental oxygen.

- You were treated for a possible pneumonia.

- You had a CT scan which ruled out a blood clot in your lung, 
but identified two slowly growing, very small (approximately 1 
cm ) nodules in your lung. These are concerning for cancer, but 
given how small and slow growing they are, they are not likely 
to affect your quality of life.

What should I do when I leave the hospital?  
- Please attend all of your appointments and take all your 
medications listed below.

- If you desire, you may have a ___ CT of your chest in 4 
months to track the lung nodules.

- You are discharged on a steroid taper. Be sure to take your 
prednisone exactly as prescribed.

Prednisone course:
Plan for prednisone taper: 4 days (___) at 60 mg daily, 4d 
(___) at 40 mg daily, 4d (___) at 30 mg daily, ongoing 
therapy at 20 mg daily thereafter/defer to Dr. ___
 
___,  
Your ___ Care Team  
 
Followup Instructions:
___